US06713474B2
A mixture of 4-[4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-phenol (0.517 g), 2-fluoro-6-(2-(4-pyridinyl)ethylamino)benzonitrile (0.42 g), potassium carbonate (0.48 g) and dimethylformamide (20 ml) were heated at 120° C. under nitrogen for 8 hours. The mixture was allowed to cool, diluted with water then extracted with ethyl acetate to give a solid which was recrystallised from ethyl acetate to give solid which was purified by flash column chromatography on silica using ethyl acetate and then ethyl acetate/methanol (9:1, 8:1, 4:1) to give 2-[4-(4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenoxy]-6-(2-(4-pyridyl)ethylamino)-benzonitrile, m.p 212-213° C.

reactant | 4-[4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl]-phenol | 0.517 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)O)C2COCC2 | C16H16N4O2
reactant | 2-fluoro-6-(2-(4-pyridinyl)ethylamino)benzonitrile | 0.42 g | FC1=C(C#N)C(=CC=C1)NCCC1=CC=NC=C1 | C14H12FN3
reactant | potassium carbonate | 0.48 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-[4-(4-amino-7-(3-tetrahydrofuryl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenoxy]-6-(2-(4-pyridyl)ethylamino)-benzonitrile | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(OC1=C(C#N)C(=CC=C1)NCCC1=CC=NC=C1)C=C2)C2COCC2 | C30H27N7O2
